US05519134
N1 -(Benzyloxycarbonyl)-3-Hydroxypyrrolidine-5-Methanol.
To a solution of N-CBz-4-hydroxy-L-proline (38.1 mmol) in 250 ml THF was added borane-methyl sulfide (78 mmol) dropwise at room temperature. After the evolution of H2 had ceased, the solution was heated to reflux with mechanical stirring. After 1 hour a white precipitate had formed. Methanol was carefully added, and the resulting solution refluxed for a further 15 minutes. The solution was cooled to room temperature, the solvents evaporated under reduced pressure, and the residual gum coevaporated with 2×100 ml MeOH. The product was obtained as a viscous oil in quantitative yield and identified by NMR.

reactant | N-CBz-4-hydroxy-L-proline | 38.1 mmol | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CC(C1)O | C13H15NO5
reactant | borane methyl sulfide | 78 mmol | B.CSC
reactant | Methanol | CO | CH4O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | N1 -(Benzyloxycarbonyl)-3-Hydroxypyrrolidine-5-Methanol | quantitative yield | C(C1=CC=CC=C1)OC(=O)N1CC(CC1CO)O | C13H17NO4
